US07144899B2
Step C: 2-[2-(Azidomethyl)phenyl]pyrazine
To a stirred solution of (2-pyrazin-2-ylphenyl)methanol (1.14 g, 6.13 mmol) in anhydrous THF (12.5 mL) at 0° C. was added DPPA (1.59 ml, 7.36 mmol) and DBU (1.01 mL, 6.75 mL). The resulting cloudy yellow mixture was allowed to warm to room temperature, and after 3.5 h was warmed to 80° C. for 3 h. The mixture was then cooled to room temperature and the THF was removed in vacuo. The residue was partitioned between EtOAc and H2O. The layers were separated and the aqueous layer was further extracted with EtOAc. The combined organic extracts were washed successively with a 10% aqueous solution of citric acid, saturated aqueous NaHCO3 and brine. The organic solution was dried (anhydrous Na2SO4), filtered and concentrated to a yellow-brown oil. Silica gel chromatography (40% EtOAc-hexanes) afforded the title compound as a pale yellow oil. 1H NMR (400 MHz, CDCl3): δ 8.82 (d, J=1.6 Hz, 1 H), 8.67 (dd, J=1.6, 2.4 Hz, 1 H), 8.59 (d, J=2.4 Hz, 1 H), 7.55–7.48 (m, 4 H), 4.60 (s, 2 H). LCMS (M+H): 212.1.

reactant | (2-pyrazin-2-ylphenyl)methanol | 6.13 mmol, 1.14 g | N1=C(C=NC=C1)C1=C(C=CC=C1)CO | C11H10N2O
reactant | DPPA | 7.36 mmol, 1.59 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 1.01 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 12.5 mL | C1CCOC1 | C4H8O
product | 2-[2-(Azidomethyl)phenyl]pyrazine | N(=[N+]=[N-])CC1=C(C=CC=C1)C1=NC=CN=C1 | C11H9N5
